US07705028B2
4f) Ethyl 6-(4-hydroxyphenyl)-1-naphthalenecarboxylate
A solution of ethyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthalenecarboxylate (0.3 g, 0.861 mmol), tetrakis(triphenylphosphine) palladium (0) (0.04 g, 0.0345 mmol), 2 M Na2CO3 (4 mL) and 4-hydroxyphenyl boronic acid (0.143 g, 1.03 mmol) in ethylene glycol dimethyl ether (5 mL) was heated at 80° C. for 1.5 h. The reaction mixture was cooled to room temperature, diluted with water and EtOAc. The EtOAc layer was separated, washed with brine, dried over MgSO4, filtered, and the filtrate was concentrated to give the crude product as oil. The crude material was purified by flash chromatography over SiO2 with a Hex:EtOAc (0 to 50% EtOAc) gradient to afford 0.23 g (92%) of the title compound as an oil. 1H NMR (400 MHz, DMSO-d6): δ 9.63 (s, 1 H), 8.76 (d, J=9.0 Hz, 1 H), 8.20 (m, 2 H), 8.07 (d, J=7 Hz, 1H), 7.93 (m, 1 H), 7.66 (d, J =9 Hz, 2 H), 7.58 (t, J=8 Hz, 1 H), 6.88 (d, J=9 Hz, 2 H), 4.42-4.37 (m, 2 H), 1.37 (t, J =7 Hz, 3 H).

reactant | ethyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthalenecarboxylate | 0.861 mmol, 0.3 g | FC(S(=O)(=O)OC=1C=C2C=CC=C(C2=CC1)C(=O)OCC)(F)F | C14H11F3O5S
reactant | Na2CO3 | 2 M, 4 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-hydroxyphenyl boronic acid | 1.03 mmol, 0.143 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.0345 mmol, 0.04 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Ethyl 6-(4-hydroxyphenyl)-1-naphthalenecarboxylate | 0.23 g, 92% | OC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)OCC | C19H16O3
